US08048899B2
To a stirred solution of 2.0 g (7.65 mmol) of 5-(4-methoxy-benzyloxy)-4,4-dimethyl-3-oxo-pentanenitrile and 0.62 g (15.40 mmol) of sodium hydroxide in water (40 mL) are added 0.64 g (3.90 mmol) of hydroxylamine sulfate. The reaction is stirred at 100° C. for 18 h. After cooling to room temperature, the reaction is diluted with water and extracted with ethyl acetate (3×20 mL). The combined organic extracts are washed with brine, dried over Na2SO4 and filtered. The filtrate is concentrated under reduced pressure. The residual oil is purified by flash column chromatography using Biotage SP1 (silica, eluent hexanes, 5-50% ethyl acetate) to yield 0.873 g of 3-[1,1-dimethyl-2-(4-methoxybenzyl-oxy)-ethyl]-isoxazol-5-ylamine as a pale yellow solid. Yield 41%, m/z 277 [M+H]; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.29 (6H, s), 3.44 (2H, s), 3.81 (3H, s), 4.35 (2H, br. s), 4.46 (2H, br. s), 5.06 (1H, s), 7.22-7.27 (2H, m), 6.86-6.89 (2H, m).

reactant | 5-(4-methoxy-benzyloxy)-4,4-dimethyl-3-oxo-pentanenitrile | 7.65 mmol, 2.0 g | COC1=CC=C(COCC(C(CC#N)=O)(C)C)C=C1 | C15H19NO3
reactant | sodium hydroxide | 15.40 mmol, 0.62 g | [OH-].[Na+]
reactant | hydroxylamine sulfate | 3.90 mmol, 0.64 g | S(=O)(=O)(O)O.NO
solvent | water | 40 mL | O | H2O
product | 3-[1,1-dimethyl-2-(4-methoxybenzyl-oxy)-ethyl]-isoxazol-5-ylamine | 0.873 g, Yield 41% | CC(COCC1=CC=C(C=C1)OC)(C)C1=NOC(=C1)N | C15H20N2O3
